US06878700B1
2-Carbomethoxypiperazine was treated with benzyl chloroformate (1.0 eq) in aqueous NaHCO3 to give 1-benzyloxycarbonyl-3-carbomethoxypiperazine. This material was treated with di-tert-butyldicarbonate (1.1 eq) and triethylamine (1.0 eq) in THF to produce 1-tert-butoxycarbonyl-4-benzyloxycarbonyl-2-carbomethoxypiperazine. Hydrogenation of this compound in methanol using 10% Pd—C gave the title compound after filtration and solvent removal.

reactant | 2-Carbomethoxypiperazine | C(=O)(OC)C1NCCNC1 | C6H12N2O2
reactant | benzyl chloroformate | 1.0 eq | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 1-benzyloxycarbonyl-3-carbomethoxypiperazine | C(C1=CC=CC=C1)OC(=O)N1CC(NCC1)C(=O)OC | C14H18N2O4
